US08183381B2
Step 2: Preparation of 4-azido-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester and sodium azide in DMF was stirred at 60° C. overnight. The mixture was poured into water and the resulting mixture was extracted with EtOAc. The organic phase was separated and washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to give the desired product as a pale yellow oil, which was used without further purification. 1H NMR (CDCl3): δ 7.9 (2H, d), 7.12 (2H, d), 4.79 (2H, d), 3.05 (3H, s), 2.58 9 (1H, t).

reactant | 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-azido-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N=[N+]=[N-] | C10H18N4O2
